US07943619B2
2,2-Dimethyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-propionamide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using pivaloyl chloride instead of methoxyacetyl chloride, to the title compound (320 mg, 87%) which was obtained as a white solid. MS: m/e=367.1 [M+H].

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 2,2-Dimethyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-propionamide | 320 mg, 87% | CC(C(=O)NC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)(C)C | C20H22N4O3
